US05409956
Preparation of 2-(t-butoxycarbonylaminomethyl)-5-hydroxyindan:
3.53 g (10.0 mmol) of 5-benzyloxy-2-(t-butoxycarbonylaminomethyl)indan was dissolved in 100 ml of methanol and added with 0.3 g of 10% palladium on carbon, followed by stirring for 4 hours in the stream of hydrogen gas. The catalyst was removed by filtration, and the filtrate was condensed under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: hexane=1:2) to obtain 2.79 g of a colorless oil. Yield: 94%

reactant | 5-benzyloxy-2-(t-butoxycarbonylaminomethyl)indan | 10.0 mmol, 3.53 g | C(C1=CC=CC=C1)OC=1C=C2CC(CC2=CC1)CNC(=O)OC(C)(C)C | C22H27NO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
product | 2-(t-butoxycarbonylaminomethyl)-5-hydroxyindan | 2.79 g, Yield: 94% | C(C)(C)(C)OC(=O)NCC1CC2=CC=C(C=C2C1)O | C15H21NO3
